US09359358B2
Step 2. {1-(cis-4-{[6-[(tert-Butylamino)methyl]-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile
[6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate (240 mg, 0.32 mmol) was dissolved in THF (2 mL), followed by addition of tert-butylamine (530 μL, 5.0 mmol). The flask was capped and heated in a 50° C. bath for 1 hour. LCMS and HPLC showed 92% conversion of the mesylate to product. HPLC showed the product to have UVmax 224, 250 and 308 nm. After another hour, the solvent was removed by rotary evaporation.

reactant | [6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate | 0.32 mmol, 240 mg | CS(=O)(=O)OCC1=NC(=NC(=C1)O[C@@H]1CC[C@@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N)C(F)(F)F | C33H42F3N9O5SSi
reactant | tert-butylamine | 5.0 mmol, 530 μL | C(C)(C)(C)N | C4H11N
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {1-(cis-4-{[6-[(tert-Butylamino)methyl]-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile | C(C)(C)(C)NCC1=CC(=NC(=N1)C(F)(F)F)O[C@H]1CC[C@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C36H49F3N10O2Si
